US07547680B2
2-[4-(1H-Imidazol-1-yl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-Amino-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole (94 mg) and 4-(1H-imidazol-1-yl)benzaldehyde (41 mg) were suspended in tetrahydrofuran (3 mL), and the mixture stirred at room temperature for 2 hours. To the reaction mixture was added acetic acid (200 μL), and then was added sodium triacetoxyborohydride (56 mg). The mixture was stirred at room temperature for 24 hours. After adding water to the reaction mixture, and the mixture was concentrated under reduced pressure. The obtained residue was dissolved in ethanol (2 mL). To the mixture was added 5 mol/L aqueous sodium hydroxide solution (0.5 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added acetic acid (1 mL), and the mixture was concentrated under reduced pressure. The obtained residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELL PAC C18UG80, 5 μm, 20×50 mm, flow rate 30 mL/minutes linear gradient, water/methanol=70/30-10/90) to give the title compound (67 mg).

reactant | 2-Amino-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole | 94 mg | NC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C=CC=C2 | C18H21N3O7
reactant | 4-(1H-imidazol-1-yl)benzaldehyde | 41 mg | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | acetic acid | 200 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 56 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-[4-(1H-Imidazol-1-yl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 67 mg | N1(C=NC=C1)C1=CC=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=C1 | C22H23N5O4
